US08686044B2
Preparation of N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-iodo-3-nitrobenzamide
According to the method of 1-3 of Example 1, a target compound was prepared from 4-iodo-3-nitrobenzoyl chloride prepared from 4-iodo-3-nitrobenzoic acid and thionyl chloride, and 2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline.

reactant | 4-iodo-3-nitrobenzoyl chloride | IC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3ClINO3
reactant | 4-iodo-3-nitrobenzoic acid | IC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | ClC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4ClF10N
product | N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-iodo-3-nitrobenzamide | ClC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=CC(=C(C=C1)I)[N+](=O)[O-])=O | C17H6ClF10IN2O3
